US08071607B2
Compound 50B. (4-Pyrrol-1-yl-phenyl)-hydrazine hydrochloride
Title compound 50A, N-(4-Pyrrol-1-yl-phenyl)-hydrazinecarboxylic acid tert-butyl ester (0.32 g, 1.0 eq, 1.2 mmol) was suspended in a mixture of 4M HCl in Dioxane (4.9 ml, 17.0 eq, 19.7 mmol) and DCM (5 ml). The mixture was then stirred at room temperature for 24 hr solvent was then removed in vacuo to yield the title compound as an off-white solid (0.25 g, 1.12 mmol, 95%). LCMS: [M+H]+=157/174, rt=0.98 min, 98% purity.

reactant | N-(4-Pyrrol-1-yl-phenyl)-hydrazinecarboxylic acid tert-butyl ester | 1.2 mmol, 0.32 g, 1.0 eq | C(C)(C)(C)OC(=O)N(N)C1=CC=C(C=C1)N1C=CC=C1 | C15H19N3O2
reactant | Dioxane | 19.7 mmol, 4.9 ml, 17.0 eq | O1CCOCC1 | C4H8O2
reactant | HCl | 4M | Cl | ClH
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (4-Pyrrol-1-yl-phenyl)-hydrazine hydrochloride | 1.12 mmol, 0.25 g, 95% | Cl.N1(C=CC=C1)C1=CC=C(C=C1)NN | InChI=1S/C10H11N3.ClH/c11-12-9-3-5-10(6-4-9)13-7-1-2-8-13;/h1-8,12H,11H2;1H
